US08669234B2
HATU (390 mg, 1.03 mmol) was added to solution of 5-[(carboxymethyl-methoxycarbonyl-amino)-methyl]-pyrrolidine-2-carboxylic acid ethyl ester (187 mg, 0.68 mmol) and 4-methylmorpholine (375 μL, 3.4 mmol) in dimethylformamide (30 mL). After 50 minutes the solvent was removed under reduced pressure and the resulting residue was taken up in ethyl acetate (20 mL) which was washed with half saturated sodium chloride (2×10 mL), saturated sodium bicarbonate (2×10 mL) and dried over sodium sulfate. The aqueous phase also contained product. The water was removed under reduced pressure and the residue was azeotroped with toluene and then stirred with ethyl acetate (50 mL). The mixture was filtered and combined with the organic extracts. The solvent was removed under reduced pressure and the resulting residue was subjected to flash chromatography with eluent of (10% methanol in ethyl acetate) and hexane. The product-containing fractions were combined and the solvent was removed under reduced pressure to provide 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester (141 mg, 0.52 mmol, 76%). C12H18N2O5 calculated 270.1, observed [M+1]+ 271.1; rt=1.54 min.

reactant | HATU | 1.03 mmol, 390 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-[(carboxymethyl-methoxycarbonyl-amino)-methyl]-pyrrolidine-2-carboxylic acid ethyl ester | 0.68 mmol, 187 mg | C(C)OC(=O)C1NC(CC1)CN(C(=O)OC)CC(=O)O | C12H20N2O6
reactant | 4-methylmorpholine | 3.4 mmol, 375 μL | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester | 0.52 mmol, 141 mg, 76% | COC(=O)N1CC2N(C(C1)=O)C(CC2)C(=O)OCC | C12H18N2O5
